US05807883
Under argon atmosphere and ice cooling, a solution of 2.80 g of 3,4-dichlorobenzoyl chloride in 20 ml of methylene chloride was added dropwise to a mixture of 2.84 g of 3-amino-1-pentyl-2,3-dihydro-1H-indol-2-one hydrochloride, 2.24 g of sodium hydrogen carbonate, 30 ml of chloroform and 30 ml of water. The reaction mixture was stirred under ice cooling for 30 minutes and then at room temperature for 30 minutes, diluted with water and extracted with chloroform. After the chloroform layer was washed and dried, the solvent was removed by evaporation. The residue was recrystallized from ethyl acetate-hexane to afford 4.06 g of 3,4-dichloro-N-(2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl)benzamide as colorless crystals. Melting point: 125° to 126° C., IR (Nujol) (cm-1): 3280, 1725, 1635, 1610, MS (m/z): 390 (M+), 374, 372, 217 (base).

reactant | 3,4-dichlorobenzoyl chloride | 2.80 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | 3-amino-1-pentyl-2,3-dihydro-1H-indol-2-one hydrochloride | 2.84 g | Cl.NC1C(N(C2=CC=CC=C12)CCCCC)=O
reactant | sodium hydrogen carbonate | 2.24 g | C(O)([O-])=O.[Na+]
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
product | 3,4-dichloro-N-(2,3-dihydro-2-oxo-1-pentyl-1H-indol-3-yl)benzamide | 4.06 g | ClC=1C=C(C(=O)NC2C(N(C3=CC=CC=C23)CCCCC)=O)C=CC1Cl | C20H20Cl2N2O2
